US06313312B1
2-Chloro-2-(3-nitrophenyl)acetonitrile
A solution of 2-hydroxy-2-(3-nitrophenyl)acetonitrile (Preparation 113, 1.0 g, 5.62 mmol) in diethyl ether (10 ml) was stirred at room temperature and treated with pyridine (0.1 ml, 1.24 mmol) followed by thionyl chloride (0.82 ml, 11.2 mmol) dropwise over 5 minutes. The mixture was gently heated under reflux and after 30 min the solvent was removed by evaporation to give a pale yellow solid. This was purified by column chromatography on silica gel eluting with hexane:ethyl acetate (3:1 and then 2:1) to give the title compound as a white crystalline solid (980 mg, 89%).

reactant | 2-hydroxy-2-(3-nitrophenyl)acetonitrile | 5.62 mmol, 1.0 g | OC(C#N)C1=CC(=CC=C1)[N+](=O)[O-] | C8H6N2O3
reactant | pyridine | 1.24 mmol, 0.1 ml | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 11.2 mmol, 0.82 ml | S(=O)(Cl)Cl | Cl2OS
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 2-Chloro-2-(3-nitrophenyl)acetonitrile | 980 mg, 89% | ClC(C#N)C1=CC(=CC=C1)[N+](=O)[O-] | C8H5ClN2O2
